US09108939B2
C: 2-(4-((4-(4-Aminophenylsulfonyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
4-(Piperidin-4-ylsulfonyl)aniline (1.748 mmol, 420 mg), 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (1.748 mmol, 589 mg) and potassium carbonate (3.50 mmol, 483 mg) were combined in acetonitrile (5 mL). Dimethylsulfoxide (0.5 mL) was added and the reaction stirred at room temperature for 1.5 hours. The reaction mixture was filtered and filtrate was concentrated under vacuum. The residue was purified by SCX chromatography to give the title compound (700 mg).

reactant | 4-(Piperidin-4-ylsulfonyl)aniline | 1.748 mmol, 420 mg | N1CCC(CC1)S(=O)(=O)C1=CC=C(N)C=C1 | C11H16N2O2S
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 1.748 mmol, 589 mg | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 3.50 mmol, 483 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-(4-((4-(4-Aminophenylsulfonyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 700 mg | NC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C21H22F6N2O3S
